US04904650
A solution of androst-4-ene-3,17-dione in t-butanol was heated to boiling and added to a boiling solution of potassium t-butoxide in t-butanol. Methyl chloride in t-butanol was added slowly. The solution was cooled, acidified with concentrated hydrochloric acid, and diluted with water. The excess t-butanol was removed under vacuum and the aqueous layer extracted with ethylacetate. The combined extracts were washed with water, dried over magnesium sulfate and evaporated in vacuo. The residue was chromatographed on silica gel and eluted with hexane/ethylacetate. The eluant was evaporated and the residue crystallized from ether to yield 4-methylandrost-4-ene-3,17-dione; I.R. (KBr): 1735 (17-oxo), 1660 (3-oxo), 1620 cm-1 (Δ4).

reactant | androst-4-ene-3,17-dione | C[C@@]12C(CC[C@H]1[C@@H]1CCC3=CC(CC[C@]3(C)[C@H]1CC2)=O)=O | C19H26O2
reactant | potassium t-butoxide | CC(C)([O-])C.[K+]
reactant | Methyl chloride | CCl | CH3Cl
reactant | hydrochloric acid | Cl | ClH
solvent | t-butanol | C(C)(C)(C)O | C4H10O
solvent | water | O | H2O
product | 4-methylandrost-4-ene-3,17-dione | CC1=C2CC[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(CCC1=O)C)=O | C20H28O2
